US04080502
18.5 g (0.1 mol) of 2,4-dioxo-hexahydro-1,5-diethyl-3-methyl-s-triazine are dissolved in 20 ml of methylene chloride and 24 g (0.15 mol) of bromine are added dropwise. The temperature is kept at 20° C to 30° C by occasional cooling. After a few minutes, an orange-coloured precipitate separates out. This is filtered off and recrystallised from isopropanol. 23 g (87%) of 2,4-dioxo-1,2,3,4-tetrahydro-1,5-diethyl-3-methyl-s-triazinium bromide of melting point 198° C are obtained.

reactant | 2,4-dioxo-hexahydro-1,5-diethyl-3-methyl-s-triazine | 0.1 mol, 18.5 g | O=C1N(CN(C(N1C)=O)CC)CC | C8H15N3O2
reactant | bromine | 0.15 mol, 24 g | BrBr | Br2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2,4-dioxo-1,2,3,4-tetrahydro-1,5-diethyl-3-methyl-s-triazinium bromide | 23 g, 87% | [Br-].O=C1[NH+](CN(C(N1C)=O)CC)CC | InChI=1S/C8H15N3O2.BrH/c1-4-10-6-11(5-2)8(13)9(3)7(10)12;/h4-6H2,1-3H3;1H
